US07842685B2
Synthesis of ((2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethyl)amino)(oxo)acetic acid
Ethyl 2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethylamino)-2-oxoacetate (100 mg, 0.20 mmol) was dissolved in ethanol (2.0 mL) before crushed potassium hydroxide (23 mg, 0.41 mmol) was added and stirred at ambient temperature for 30 min. The reaction mixture was concentrated, suspended in water, acidified with 2 N HCl, filtered, and washed with water. The title compound was obtained after purification via preparatory LC. MS (ESI) m/z: Calculated: 461.1; Observed: 462.0 (M++H).

reactant | Ethyl 2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethylamino)-2-oxoacetate | 0.20 mmol, 100 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCNC(C(=O)OCC)=O | C27H24FN3O3S
reactant | potassium hydroxide | 0.41 mmol, 23 mg | [OH-].[K+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | ((2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethyl)amino)(oxo)acetic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCNC(C(=O)O)=O | C25H20FN3O3S
